US08975254B2
c) 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylic acid
Ethyl 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylate (0.97 g, 4.94 mmol) was dissolved in methanol (20 ml) and cooled to 0° C. with an ice bath. Sodium hydroxide 2 M solution (4.94 ml, 9.89 mmol) was added and the mixture was allowed to cool to RT with stirring. The mixture was stirred for 26 h during which additional 7 ml of sodium hydroxide 2 M solution was added. The solvent was evaporated and the pH adjusted to 2 with 1 M HCl. The formed precipitate was filtered and washed with water. The white solid was dried with vacuum at 40° C. 1H-NMR (400 MHz; d6-DMSO): δ 2.69 (t, 2H), 3.81 (t, 2H), 4.68 (s, 2H), 13.09 (bs, 1H).

reactant | Ethyl 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylate | 4.94 mmol, 0.97 g | N=1NC(=C2C1CCOC2)C(=O)OCC | C9H12N2O3
reactant | Sodium hydroxide | 2 M | [OH-].[Na+]
reactant | sodium hydroxide | 2 M, 7 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylic acid | N=1NC(=C2C1CCOC2)C(=O)O | C7H8N2O3
